US08729263B2
Step 2: (2-(Benzyloxy)-6-methoxyphenyl)boronic acid
To a mixture of 1-(benzyloxy)-2-bromo-3-methoxybenzene (2.66 g, 9.07 mmol) in THF (20 mL) was added butyllithium (2.5 M in THF, 4 mL, 9.98 mmol) at −78° C. dropwise over 15 minutes. The mixture was stirred at −78° C. for 30 minutes, then trimethylborate (4.0 mL, 36.3 mmol) was added. The mixture was allowed to warm to RT and stirred overnight. The mixture was quenched with 1 M aqueous HCl to pH 2 and extracted with DCM. The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (EtOAc/Heptane) to afford the desired product as a white solid (1.07 g, 46% yield). MS (M+1)=259.4.

reactant | 1-(benzyloxy)-2-bromo-3-methoxybenzene | 9.07 mmol, 2.66 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)Br | C14H13BrO2
reactant | butyllithium | 9.98 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylborate | 36.3 mmol, 4.0 mL | COB(OC)OC | C3H9BO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-(Benzyloxy)-6-methoxyphenyl)boronic acid | 1.07 g, 46% yield | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OC)B(O)O | C14H15BO4
